US04230635
N-methyl-4'-(1,3-dichlorotetrafluoro-2-propyl)methanesulfonanilide
To 6.1 g (20 mmole) N-methyl-4-(1,3-dichlorotetrafluoro-2-hydroxy-2-propyl)aniline in 30 ml pyridine add 3.4 g (30 mmole) methanesulfonyl chloride. Stir 1.5 hours, pour onto water, acidify with concentrated HCl and filter. Dissolve the solid in 1N NaOH, wash with Et2O, acidify and filter. Recrystallize the solid from Et2O-hexane to give the product; m.p. 140°-142° C.

reactant | N-methyl-4-(1,3-dichlorotetrafluoro-2-hydroxy-2-propyl)aniline | 20 mmole, 6.1 g | CNC1=CC=C(C=C1)C(C(Cl)(F)F)(C(Cl)(F)F)O | C10H9Cl2F4NO
reactant | methanesulfonyl chloride | 30 mmole, 3.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl-4'-(1,3-dichlorotetrafluoro-2-propyl)methanesulfonanilide | CN(C1=CC=C(C=C1)C(C(Cl)(F)F)C(Cl)(F)F)S(=O)(=O)C | C11H11Cl2F4NO2S
